US05569653
(D). 4-Fluoro-N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethyl]phthalamide maleate
To a solution of 2-[4-(6-fluoro-1H-3-indazolyl)-1-piperidinyl]ethylamine (6.1 g, 23.3 mmol) in DMF (230 ml) was added 4-fluorophthalic anhydride (4.2 g, 25.5 mmol) at room temperature under nitrogen. The reaction mixture was warmed to 80 C. for 2.5 hours at which time it was allowed to cool to room temperature. The DMF was removed under reduced pressure to give a brown oil which was dissolved into DCM/MeOH. Purification via flash column chromatography (silica gel, 2% MeOH/DCM) afforded 3.6 g of the desired product as a white solid. The maleate salt was prepared in methanol (75 ml) using maleic acid (2.1 eq.). The precipitated salt was collected via filtration and recrystallized from acetonitrile to give a white solid, m.p. 193°-195° C.

reactant | 2-[4-(6-fluoro-1H-3-indazolyl)-1-piperidinyl]ethylamine | 23.3 mmol, 6.1 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCN | C14H19FN4
reactant | 4-fluorophthalic anhydride | 25.5 mmol, 4.2 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
reactant | DCM MeOH | C(Cl)Cl.CO
reactant | DMF | 230 ml | CN(C)C=O | C3H7NO
product | 4-Fluoro-N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]ethyl]phthalamide maleate | 3.6 g | C(\C=C/C(=O)O)(=O)O.FC=1C=C(C(C(=O)NCCN2CCC(CC2)C2=NNC3=CC(=CC=C23)F)=CC1)C(=O)N | InChI=1S/C22H23F2N5O2.C4H4O4/c23-14-1-3-16(18(11-14)21(25)30)22(31)26-7-10-29-8-5-13(6-9-29)20-17-4-2-15(24)12-19(17)27-28-20;5-3(6)1-2-4(7)8/h1-4,11-13H,5-10H2,(H2,25,30)(H,26,31)(H,27,28);1-2H,(H,5,6)(H,7,8)/b;2-1-
